US05972978
5-Naphthalen-2-yl-2,3-dihydro-[1,3,4]thiadiazol-2-yl-cyanamide;
9-Biphenyl-4-ylmethyl-9H-carbazol-3-carboxylic acid (3-hydroxy-(1,2,4-thiadiazol-5-yl) amide;

reactant | 9-Biphenyl-4-ylmethyl-9H-carbazol-3-carboxylic acid | C1(=CC=C(C=C1)CN1C2=CC=CC=C2C=2C=C(C=CC12)C(=O)O)C1=CC=CC=C1 | C26H19NO2
reactant | 3-hydroxy-(1,2,4-thiadiazol-5-yl) amide | OC1=NSC(=N1)[NH-]
product | 5-Naphthalen-2-yl-2,3-dihydro-[1,3,4]thiadiazol-2-yl-cyanamide | C1=C(C=CC2=CC=CC=C12)C1=NNC(S1)NC#N | C13H10N4S
